US03931235
3-(o-Fluorobenzylsulfinyl)-4-hydroxy-6-methyl-2-pyrone
3-(o-Fluorobenzylthio)-4-hydroxy-6-methyl-2-pyrone (13.8 g., 0.0519 mole) and 30% hydrogen peroxide (5.9 g., 0.0519 mole) were mixed with glacial acetic acid (100 ml.) with stirring. After ten days the peroxide had been consumed, and the solution was diluted with water. The resulting mixture was extracted with methylene chloride. The extract was dried (MgSO4) and evaporated to dryness, leaving 13.3 g. (91 percent) of a colored solid. Recrystallization from a mixed hexane-benzene solution gave the pure product as a white solid, m.p. 115°-116°C.

reactant | 3-(o-Fluorobenzylthio)-4-hydroxy-6-methyl-2-pyrone | 0.0519 mole, 13.8 g | FC1=C(CSC=2C(OC(=CC2O)C)=O)C=CC=C1 | C13H11FO3S
reactant | hydrogen peroxide | 0.0519 mole, 5.9 g | OO | H2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-(o-Fluorobenzylsulfinyl)-4-hydroxy-6-methyl-2-pyrone | FC1=C(CS(=O)C=2C(OC(=CC2O)C)=O)C=CC=C1 | C13H11FO4S
